US06825202B2
A solution of 2,2,2-trifluoro-1-[4-(2-methoxy-phenyl)-piperazin-1-yl]-ethanone (14 g; 0.48 mol) in dichloromethane (20 mL) was added to chlorosulfonic acid (75 mL) in such a rate that the inner temperature did not exceed −5° C. After 10 min at this temperature, the solution was poured slowly onto ice-water (500 g), the precipitate was filtered and washed with cold water (2×200 mL) and cold diethyl ether (200 mL). The resulting solid was recrystallized from diethyl ether to give 4-methoxy-3-[4-(2,2,2-trifluoro-acetyl)-piperazin-1-yl]-benzenesulfonyl chloride as white powder (7.7 g; 41%), MS, MH+ 387, m. p. 125-127.3° C.

reactant | 2,2,2-trifluoro-1-[4-(2-methoxy-phenyl)-piperazin-1-yl]-ethanone | 0.48 mol, 14 g | FC(C(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)(F)F | C13H15F3N2O2
reactant | chlorosulfonic acid | 75 mL | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-methoxy-3-[4-(2,2,2-trifluoro-acetyl)-piperazin-1-yl]-benzenesulfonyl chloride | COC1=C(C=C(C=C1)S(=O)(=O)Cl)N1CCN(CC1)C(C(F)(F)F)=O | C13H14ClF3N2O4S
